CIRCUIT C:\Documents and Settings\Administrator\My Documents\microwind3\microwind3 lite\Inverter.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
VA 6 0 DC 0 PULSE(0.00 1.20 0.95N 0.05N 0.05N 0.95N 2.00N)
*
* List of nodes
* "N2" corresponds to n°2
* " inv1_nA" corresponds to n°3
* "A" corresponds to n°6
*
* MOS devices
MN1 0 6 3 0 N1  W= 0.36U L= 0.12U
MP1 1 6 3 2 P1  W= 0.96U L= 0.12U
*
C2 2 0  1.197fF
C3 3 0  1.548fF
C4 1 0  0.579fF
C6 6 0  1.159fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 5.00N
print  V(6) V(3) > out.txt
plot  V(6) V(3)
.endc
.END
